US08110575B2
5-(6-(6-methoxyindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
83 mg (0.20 mmol) 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride, 30 mg (0.20 mmol) 6-methoxy-2,3-dihydro-1-H-indole, 51 μL (0.36 mmol) TEA and 70 mg (0.22 mmol) TBTU in 1.5 mL DMF were stirred for 1 h at RT. The purification was carried out by preparative HPLC-MS. The product-containing fractions were combined and lyophilised.

reactant | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride | 0.20 mmol, 83 mg | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O
reactant | 6-methoxy-2,3-dihydro-1-H-indole | 0.20 mmol, 30 mg | COC1=CC=C2CCNC2=C1 | C9H11NO
reactant | TBTU | 0.22 mmol, 70 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5-(6-(6-methoxyindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | COC1=CC=C2CCN(C2=C1)C(=O)C1=CC(=NC=N1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C29H24N6O3
